US07034039B2
A solution of 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (1.21 g, 2.5 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.96 g, 5 mmol) and 1-hydroxybenzotriazole ammonium salt (0.76 g, 5 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide (1.02 g, 85.0%) as crystals.

reactant | 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | 2.5 mmol, 1.21 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)Cl)C(=O)O)=O)CC(C)C | C26H29ClN2O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5 mmol, 0.96 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole ammonium salt | 5 mmol, 0.76 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide | 1.02 g, 85.0% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)Cl)C(=O)N)=O)CC(C)C | C26H30ClN3O4
